US06806265B2
a) Ethyl 5-(4-aminophenyl)-2-methyl-3-furanecarboxylate
A mixture of ethyl 2-methyl-5-(4-nitrophenyl)-3-furanecarboxylate (500 mg, 1.82 mmol), iron powder (325 mesh, 811 mg, 14.5 mmol) and aqueous 1 N HCl solution (0.36 mL, 0.36 mmol) in EtOH (5 mL) was heated to reflux for 2 h. The reaction mixture was filtered and concentrated under reduced pressure to give the title compound (396 mg, 89% yield) as a brown oil.

reactant | ethyl 2-methyl-5-(4-nitrophenyl)-3-furanecarboxylate | 1.82 mmol, 500 mg | CC=1OC(=CC1C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C14H13NO5
reactant | HCl | 0.36 mmol, 1 N, 0.36 mL | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | iron | 14.5 mmol, 811 mg | [Fe] | Fe
product | Ethyl 5-(4-aminophenyl)-2-methyl-3-furanecarboxylate | 396 mg, 89% yield | NC1=CC=C(C=C1)C1=CC(=C(O1)C)C(=O)OCC | C14H15NO3
